US09212187B2
Synthesis of 1-methyl-6-{2-[(2-pyridin-3-ylethyl)pyridin-3-ylmethylamino]ethoxy}-1H-quinolin-2-one trihydrochloride
A 1N-hydrogen chloride ethanol solution(1.7 ml) was added to an ethanol solution (10 ml) of 1-Methyl-6-{2-[(2-pyridin-3-ylethyl)pyridin-3-ylmethylamino]ethoxy}-1H-quinolin-2-one(195 mg), which was stirred at room temperature. The reaction mixture was condensed under reduced pressure and ethyl acetate was added to the residue. The precipitated insoluble matter was separated, washed with ethyl acetate, and dried to give the title compound(199 mg) as a pale yellow powder.

reactant | hydrogen chloride ethanol | 1.7 ml | C(C)O.Cl
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | 1-Methyl-6-{2-[(2-pyridin-3-ylethyl)pyridin-3-ylmethylamino]ethoxy}-1H-quinolin-2-one | 195 mg | CN1C(C=CC2=CC(=CC=C12)OCCN(CC=1C=NC=CC1)CCC=1C=NC=CC1)=O | C25H26N4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-methyl-6-{2-[(2-pyridin-3-ylethyl)pyridin-3-ylmethylamino]ethoxy}-1H-quinolin-2-one trihydrochloride | 199 mg | Cl.Cl.Cl.CN1C(C=CC2=CC(=CC=C12)OCCN(CC=1C=NC=CC1)CCC=1C=NC=CC1)=O | InChI=1S/C25H26N4O2.3ClH/c1-28-24-8-7-23(16-22(24)6-9-25(28)30)31-15-14-29(19-21-5-3-12-27-18-21)13-10-20-4-2-11-26-17-20;;;/h2-9,11-12,16-18H,10,13-15,19H2,1H3;3*1H
